US06313346B1
Preparation of 3-{2-[(2-Dimethylamino ethyl)methylamino]ethoxy}propionamide
A 50 ml 3 neck round bottom flask was fitted with the following: magnetic stirrer, reflux condenser, air bubbler, and a temperature controlled oil bath. The flask was charged with 7.3 g of 2-{[2-(dimethylamino) ethyl]methylamino}ethanol. Sodium hydride, 0.014 g, was then added carefully to the of 2-{[2-(dimethylamino) ethyl]methylamino}ethanol with stirring. The mixture was stirred at a constant rate for two minutes before 3.55 g of acrylamide was added. After the addition of acrylamide, the reaction mixture was stirred at 50° C. for 6 hours. The mixture was cooled to ambient temperature. Concentrated sulfuric acid, 0.034 g, then was added to neutralize the product mixture. The resulting mixture was filtered through a Celite layer. The filtrate was collected for foam application. Quantitative 1H NMR showed that the product was 94% pure.

reactant | 2-{[2-(dimethylamino) ethyl]methylamino}ethanol | 7.3 g | CN(CCN(CCO)C)C | C7H18N2O
reactant | Sodium hydride | [H-].[Na+]
reactant | acrylamide | 3.55 g | C(C=C)(=O)N | C3H5NO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 3-{2-[(2-Dimethylamino ethyl)methylamino]ethoxy}propionamide | CN(CCN(CCOCCC(=O)N)C)C | C10H23N3O2
